US07417169B2
N-[(1S,2R)-2-(3-Amino-4-benzyloxyphenyl)-2-hydroxy-1-methylethyl]-2,2,2-trifluoroacetamide
A solution of ammonium chloride (29 g) in water (133 mL) was added to a solution of N-[(1S,2R)-2-(4-benzyloxy-3-nitrophenyl)-2-hydroxy-1-methylethyl]-2,2,2-trifluoroacetamide (73 g) in ethanol (487 mL) at room temperature with stirring. The mixture was cooled with an ice, and then zinc powder (95 g) was added to the mixture with stirring over 10 minutes. The gray suspension was heated up to 70° C. over 15 minutes, and stirred at that temperature for 1 hr. The insoluble materials were removed by filtration, and the filtrate was concentrated in vacuo. Ethyl acetate and water were added to the residue, and the insoluble materials were removed by filtration again. The organic layer in the filtrate was separated, washed with brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to afford the title compound (62 g).

reactant | ammonium chloride | 29 g | [Cl-].[NH4+]
reactant | N-[(1S,2R)-2-(4-benzyloxy-3-nitrophenyl)-2-hydroxy-1-methylethyl]-2,2,2-trifluoroacetamide | 73 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[C@H]([C@H](C)NC(C(F)(F)F)=O)O)[N+](=O)[O-] | C18H17F3N2O5
solvent | water | 133 mL | O | H2O
solvent | ethanol | 487 mL | C(C)O | C2H6O
catalyst | zinc | 95 g | [Zn] | Zn
product | N-[(1S,2R)-2-(3-Amino-4-benzyloxyphenyl)-2-hydroxy-1-methylethyl]-2,2,2-trifluoroacetamide | 62 g | NC=1C=C(C=CC1OCC1=CC=CC=C1)[C@H]([C@H](C)NC(C(F)(F)F)=O)O | C18H19F3N2O3
